### PR TITLE
[Merged by Bors] - feat(Algebra/GroupWithZero/NonZeroDivisors): add some lemmas about multiplication

### PR DESCRIPTION
**Pull request by Hagb**
Similar to `Is{Left,Right,}Regular.mul`.

---

`Is{Left,Right,}Regular.mul`: https://github.com/leanprover-community/mathlib4/blob/c671bc4215d64bd9cc8a84fdec9a12bd33fdcd26/Mathlib/Algebra/Regular/Basic.lean#L59-L76

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 1]
```diff
@@ -130,6 +130,9 @@ alias nonZeroDivisorsRight_eq_nonZeroSMulDivisors := nonZeroDivisorsLeft_eq_nonZ
 theorem mem_nonZeroDivisors_iff :
     r ∈ M₀⁰ ↔ (∀ x, r * x = 0 → x = 0) ∧ ∀ x, x * r = 0 → x = 0 := Iff.rfl
 
+theorem mem_nonZeroDivisors_iff' :
+    r ∈ M₀⁰ ↔ r ∈ nonZeroDivisorsLeft _ ∧ r ∈ nonZeroDivisorsRight _ := Iff.rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Please fill in the underscores, here and below

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 2]
```diff
@@ -157,6 +160,25 @@ lemma IsUnit.mem_nonZeroDivisors (hx : IsUnit x) : x ∈ M₀⁰ :=
...
+    (hy : y ∈ nonZeroDivisorsRight _) :
+    x * y ∈ nonZeroDivisorsRight _ := by
+  rw [mem_nonZeroDivisorsRight_iff] at ⊢ hx hy
+  intro _ h
+  exact hx _ <| hy _ <| mul_assoc _ x y ▸ h
+
+lemma mul_mem_nonZeroDivisors_of_mem_nonZeroDivisors (hx : x ∈ M₀⁰) (hy : y ∈ M₀⁰) :
+    x * y ∈ M₀⁰ := mem_nonZeroDivisors_iff'.mpr
+  ⟨mul_mem_nonZeroDivisorsLeft_of_mem_nonZeroDivisorsLeft hx.1 hy.1,
+    mul_mem_nonZeroDivisorsRight_of_mem_nonZeroDivisorsRight hx.2 hy.2⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]:
```suggestion
    x * y ∈ M₀⁰ :=
  mem_nonZeroDivisors_iff'.mpr
    ⟨mul_mem_nonZeroDivisorsLeft_of_mem_nonZeroDivisorsLeft hx.1 hy.1,
      mul_mem_nonZeroDivisorsRight_of_mem_nonZeroDivisorsRight hx.2 hy.2⟩
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks, this seems reasonable with minor comments.

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean (hunk 1 above)
Comment (Hagb) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Thanks!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
